US05821240
(126) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-(4-methyl-1-piperazinyl)carbonylcyclohexylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorop henyl)amino]-6-[trans-4-carboxycyclohexylamino]pyrimido[5,4-d]pyrimidine by reaction with O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluronium tetrafluoroborate, triethylamine and 1-methylpiperazine. Melting point: 194°-197° C.; Rf : 0.45 (alumina; methylene chloride/methanol=10:0.3)

reactant | 4-[(3-chloro-4-fluorop henyl)amino]-6-[trans-4-carboxycyclohexylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)N[C@@H]2CC[C@H](CC2)C(=O)O | C19H18ClFN6O2
reactant | O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-(4-methyl-1-piperazinyl)carbonylcyclohexylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NC2CCC(CC2)C(=O)N2CCN(CC2)C | C24H28ClFN8O
